US08609653B2
1-fluoro-3-(prop-2-yn-1-yloxy)benzene
3-Fluorophenol (5.10 g, 45.5 mmol) was dissolved in DMF (10 mL) and potassium carbonate (7.55 g, 54.6 mmol) was added and the mixture was stirred at ambient temperature for 30 minutes. Bromoprop-1-yne (5.05 mL, 45.5 mmol) was added and the reaction was stirred overnight at ambient temperature. The mixture was diluted with water, extracted with ethyl acetate, washed with brine, dried over sodium sulfate, concentrated under reduced pressure to give a yellow oil (7.27 g) that was used without further purification in the next step. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm=7.30-7.23 (m, 1 H), 6.81-6.69 (m, 3 H), 4.70 (d, J=2.3 Hz, 2 H), 2.56 (t, 1 H); LCMS (m/z) ES+=151 (M+1).

reactant | 3-Fluorophenol | 45.5 mmol, 5.10 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | potassium carbonate | 54.6 mmol, 7.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | Bromoprop-1-yne | 45.5 mmol, 5.05 mL | BrC#CC | C3H3Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-fluoro-3-(prop-2-yn-1-yloxy)benzene | 7.27 g | FC1=CC(=CC=C1)OCC#C | C9H7FO
